US07767796B2
Step (f): Toluene-4-sulfonic acid 8-[tert-butoxycarbonyl-(2-tert-butoxycarbonylamino-ethyl-amino]-7-{[tert-butoxycarbonyl-(2-tert-butoxycarbonylamino-ethyl)-amino]-methyl}-octyl Ester
(2-tert-Butoxycarbonylamino-ethyl-2-{[tert-butoxycarbonyl-(2-tert-butoxycarbonylaminoethyl)amino]-methyl}-8-hydroxyoctyl)-carbonic acid tert-butyl ester (2.52 g, 3.82 mmol),p-toluenesulfonyl chloride (1.0 g, 5.2 mmol), triethylamine (1.3 g, 12.8 mmol) and CH2Cl2 (30 ml) were stirred at room temperature with the slow evaporation of solvent. The reaction was monitored by carbon NMR and after 3 days little starting material remained. The reaction volume was made up to 30 ml with CH2Cl2, extracted with water (50 ml×3), dried (MgSO4), filtered and the solvent evaporated to leave a brown residue. This residue was subjected to chromatography on silica gel using CH2Cl2/MeOH (100:5) as eluent. The first compound to elute was unreacted tosyl chloride with an rf=0.95. The title compound eluted with an rf=0.2 and was isolated as a pale yellow viscous oil. Yield (1.20 g, 39%).

reactant | p-toluenesulfonyl chloride | 5.2 mmol, 1.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 12.8 mmol, 1.3 g | C(C)N(CC)CC | C6H15N
reactant | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
product | Toluene-4-sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
